US07074800B1
2-Chloro-3-fluoro-7-methoxyquinoline (210 mg, 1 mmol), (prepared as described for the starting material in Example 157), in anhydrous THF (1 ml) was added to a mixture of copper(I)bromide (570 mg, 4.0 mmol) and methylmagnesium bromide (3.0M solution in diethyl ether, 2.7 ml, 8 mmol) in anhydrous THF (20 ml) at −78° C. The mixture was stirred for 1 hour at −78° C., allowed to warm to ambient temperature and then stirred for a further 18 hours. Saturated aqueous ammonium chloride solution and 5N aqueous sodium hydroxide solution (pH 12) were added and the product extracted with ethyl acetate (3×). The organic solution was washed with water, brine, dried (MgSO4) and evaporated to dryness to yield 3-fluoro-7-methoxy-2-methylquinoline (0.17 g, 91%).

reactant | 2-Chloro-3-fluoro-7-methoxyquinoline | 1 mmol, 210 mg | ClC1=NC2=CC(=CC=C2C=C1F)OC | C10H7ClFNO
reactant | methylmagnesium bromide | 8 mmol, 3.0M, 2.7 ml | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | sodium hydroxide | 5N, pH 12 | [OH-].[Na+]
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | copper(I)bromide | 4.0 mmol, 570 mg | [Cu]Br
product | 3-fluoro-7-methoxy-2-methylquinoline | 0.17 g, 91% | FC=1C(=NC2=CC(=CC=C2C1)OC)C | C11H10FNO
